US04225723
(b) 2-cyano-2-(4-chlorophenyl)propyl methane sulfonate
To a mixture of 2-cyano-2-(4-chlorophenyl)propan-1-ol (68 g., 0.3 mole) and methane sulfonyl chloride (37.5 g., 0.33 mole) in 2 liters of benzene is added dropwise at 10° C., 36 g., (0.36 mole) of triethylamine. The reaction mixture is stirred at room temperature for 30 minutes and then heated on a steam bath for another 30 minutes. The precipitate formed is filtered and the filtrate is washed with dilute hydrochloric acid, water, saturated sodium bicarbonate solution, saturated sodium chloride solution and dried over magnesium sulfate. The solvent is evaporated to give 63 g. of product.

reactant | 2-cyano-2-(4-chlorophenyl)propan-1-ol | 0.3 mole, 68 g | C(#N)C(CO)(C)C1=CC=C(C=C1)Cl | C10H10ClNO
reactant | methane sulfonyl chloride | 0.33 mole, 37.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.36 mole | C(C)N(CC)CC | C6H15N
solvent | benzene | 2 liters | C1=CC=CC=C1 | C6H6
product | 2-cyano-2-(4-chlorophenyl)propyl methane sulfonate | CS(=O)(=O)OCC(C)(C1=CC=C(C=C1)Cl)C#N | C11H12ClNO3S
